US07319098B2
Synthesis of 1-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride (Compound 77)
2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-pyrrolidin-1-yl-ethylamine (100 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 121 mg (85%) was obtained by following the procedure described in Example 1.

reactant | 2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC=C1 | C16H10ClNO4
reactant | 2-pyrrolidin-1-yl-ethylamine | 0.792 mmol, 100 μL | N1(CCCC1)CCN | C6H14N2
product | 1-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride | [Cl-].ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCCC2)=O)C=CC=C1 | InChI=1S/C22H22ClN3O3.ClH/c23-19-6-2-1-5-16(19)14-26-21(28)17-8-7-15(13-18(17)22(26)29)20(27)24-9-12-25-10-3-4-11-25;/h1-2,5-8,13H,3-4,9-12,14H2,(H,24,27);1H
